US06855722B2
f) 2-(3,4-dihydro-2h-pyrido[3,2-b][1,4]oxazin-6-yl)-ethanol
To a solution of 6-tert-butoxycarbonylmethyl-2,3-dihydro-pyrido[3,2-b][1,4]oxazine-4-carboxylic acid tert-butyl ester (350 mg, 1mmol) in THF (4.0 ml) was added a solution of lithium borohydride (0.6 ml, 2.0 m in thf). The mixture was refluxed overnight, then cooled in an ice-bath. Aqueous solution of naoh (0.36 ml, 5%) was added. The ice-bath was removed. Additional h2o (0.36 ml) was added and the mixture stirred for 10 min. Celite and na2so4 were added. The mixture was filtered through celite, and the celite washed with etoac. The filtrate and washing were combined, dried over na2so4, concentrated, and flash chromatographed on silica gel, eluting with meoh/dcm (1, 2, 3, 4%) to give the product (171 mg, 94% yield) as a yellow oil. 1H NMR (CDCl3) δ 6.90 (d, 1H, J=7.8 Hz), 6.39 (d, 1H, J=7.7 Hz), 4.85 (bs, 1H), 4.20 (t, 2H, J=4.4 Hz), 3.91 (t, 2H, J=5.5 Hz), 3.69-3.52 (m, 2H), 2.78 (t, 2H, J=5.6 Hz).

reactant | 6-tert-butoxycarbonylmethyl-2,3-dihydro-pyrido[3,2-b][1,4]oxazine-4-carboxylic acid tert-butyl ester | 1mmol, 350 mg | C(C)(C)(C)OC(=O)N1C2=C(OCC1)C=CC(=N2)CC(=O)OC(C)(C)C | C18H26N2O5
reactant | lithium borohydride | 0.6 ml | [BH4-].[Li+]
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
product | 2-(3,4-dihydro-2h-pyrido[3,2-b][1,4]oxazin-6-yl)-ethanol | 171 mg, 94% yield | O1C2=C(NCC1)N=C(C=C2)CCO | C9H12N2O2
